US08486940B2
3-(1H-benzo[d]imidazol-5-yl)-4-(4-(pyrrolidin-1-yl)phenyl)oxazolidin-2-one
di-(imidazol-1-yl)methanone (0.2 g, 1.23 mmol), further according to method 5 step D starting from 4-iodobenzene-1,2-diamine (0.066 g, 0.28 mmol), copper(I) iodide (0.006 g, 0.028 mmol), cesium fluoride (0.085 g, 0.56 mmol), cyclohexane-1,2-diamine (0.004 mL, 0.028 mmol), triethyl orthoformate (1 ml),

reactant | di-(imidazol-1-yl)methanone | 1.23 mmol, 0.2 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | 4-iodobenzene-1,2-diamine | 0.28 mmol, 0.066 g | IC=1C=C(C(=CC1)N)N | C6H7IN2
reactant | cesium fluoride | 0.56 mmol, 0.085 g | [F-].[Cs+]
reactant | cyclohexane-1,2-diamine | 0.028 mmol, 0.004 mL | C1(C(CCCC1)N)N | C6H14N2
reactant | triethyl orthoformate | 1 ml | C(OCC)(OCC)OCC | C7H16O3
catalyst | copper(I) iodide | 0.028 mmol, 0.006 g | [Cu]I
product | 3-(1H-benzo[d]imidazol-5-yl)-4-(4-(pyrrolidin-1-yl)phenyl)oxazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(OCC2C2=CC=C(C=C2)N2CCCC2)=O | C20H20N4O2
